US04946787
DOPG/DOPC sonicated vesicles containing maleimide-PE were prepared by dissolving 16 mg DOPG, 24 mg DOPC and 0.4 mg maleimide-PE in chloroform and removing the solvent by drying under a stream of nitrogen gas. This dried film was placed under vacuum overnight to remove traces of solvent. The film was then suspended in 0.8 ml water with vigorous shaking and sonicated in a bath type sonicator for 30 minutes until clear producing DOTMA/DOPPC SUV's at a concentration of 50 mg/ml.

reactant | DOPG DOPC | CCCCCCCCC=CCCCCCCCC(=O)OCC(COP(=O)(O)OCC(CO)O)OC(=O)CCCCCCCC=CCCCCCCCC.CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC
reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | DOPG | 16 mg | CCCCCCCCC=CCCCCCCCC(=O)OCC(COP(=O)(O)OCC(CO)O)OC(=O)CCCCCCCC=CCCCCCCCC | C42H79O10P
reactant | DOPC | 24 mg | CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC | C44H84NO8P
reactant | maleimide | 0.4 mg | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | DOTMA | CCCCCCCC/C=C\CCCCCCCCOCC(C[N+](C)(C)C)OCCCCCCCC/C=C\CCCCCCCC.[Cl-] | InChI=1S/C42H84NO2.ClH/c1-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-36-38-44-41-42(40-43(3,4)5)45-39-37-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-2;/h20-23,42H,6-19,24-41H2,1-5H3;1H/q+1;/p-1/b22-20-,23-21-;
